US07531532B2
1-[4-(2-Aminopyridin-4-yloxy)-2-fluorophenyl]-3-[2-(4-fluorophenyl)acetyl]thiourea
To a solution of 2-(trimethylsilyl)ethyl [4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridin-2-yl]carbamate (222 mg) in tetrahydrofuran (7.0 ml) was added 10% palladium carbon (71.2 mg), followed by stirring under a hydrogen atmosphere at room temperature for 25 hrs. The reaction mixture was filtered to remove the catalyst, which was then washed with methanol (5.0 ml). 4-Fluorophenyl acetic acid (103 mg) and thionyl chloride (0.448 ml) were put in another vessel, stirred at 90° C. for 30 min, and concentrated under a reduced pressure. The resultant residue was dissolved in acetonitrile (5.0 ml), and then potassium thiocyanate (130 mg, 1.34 mmol) was added thereto, followed by stirring at 50° C. for 1 hr. The reaction mixture was added to the above filtrate, followed by stirring at room temperature for 1 hr. To the reaction mixture were added ethyl acetate (50 ml) and brine (30 ml) to partition. The organic layer was washed with brine (30 ml×3), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then dissolved in tetrahydrofuran (5.0 ml), and then 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.891 ml) was added thereto, followed by stirring at room temperature for 30 min. The reaction mixture was concentrated, and then 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.1 ml) was further added thereto, followed by stirring at room temperature for 30 min. Then, 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.5 ml) was further added thereto, followed by stirring at room temperature overnight. To the reaction mixture were added ethyl acetate (50 ml) and brine (30 ml) to partition. The organic layer was washed with brine (30 ml×3), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=20:1 to 10:1) to provide the target compound (75.4 mg, 43.5%) as a pale yellow oil.

reactant | 2-(trimethylsilyl)ethyl [4-(4-benzyloxycarbonylamino-3-fluorophenoxy)pyridin-2-yl]carbamate | 222 mg | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(OC2=CC(=NC=C2)NC(OCC[Si](C)(C)C)=O)C=C1)F | C25H28FN3O5Si
reactant | potassium thiocyanate | 1.34 mmol, 130 mg | [S-]C#N.[K+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 0.891 ml | O1CCCC1 | C4H8O
solvent | brine | 30 ml | [Cl-].[Na+].O
catalyst | palladium carbon | 71.2 mg | [C].[Pd]
product | 1-[4-(2-Aminopyridin-4-yloxy)-2-fluorophenyl]-3-[2-(4-fluorophenyl)acetyl]thiourea | 75.4 mg, 43.5% | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O)F | C20H16F2N4O2S
